US04327215
A process for the preparation of erythro-α-piperid-2-yl-2,8-bis-(trifluoromethyl)-quinolin-4-yl-methanol which comprises the steps of reacting 2,8-bis-(trifluoromethyl)-quinoline-4-carboxylic acid or a salt thereof with a pyrid-2-yl-magnesium halide in a cyclic saturated ether or in an aliphatic dialkyl ether or an alkoxyalkyl ether in a molar ratio of from 1:2 to 1:8 at from 0° to 80° C. to give pyrid-2-yl 2,8-bis-(trifluoromethyl)-quinolin-4-yl ketone and the latter is hydrogenated in a conventional manner to give erythro-α-piperid-2-yl-2,8-bis-(trifluoromethyl)-quinolin-4-yl-methanol.

reactant | 2,8-bis-(trifluoromethyl)-quinoline-4-carboxylic acid | FC(C1=NC2=C(C=CC=C2C(=C1)C(=O)O)C(F)(F)F)(F)F | C12H5F6NO2
reactant | ether | CCOCC | C4H10O
product | pyrid-2-yl 2,8-bis-(trifluoromethyl)-quinolin-4-yl ketone | FC(C1=NC2=C(C=CC=C2C(=C1)C(=O)C1=NC=CC=C1)C(F)(F)F)(F)F | C17H8F6N2O
